US08580794B2
3-chloro-4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide
The title compound was prepared by substituting 4-fluoro-3-chlorobenzenesulfonamide for 4-chloro-3-nitrobenzenesulfonamide, (tetrahydro-2H-pyran-4-yl)methanamine for 4-methylpiperazin-1-amine dihydrochloride and Hunig's base for N1,N1,N2,N2-tetramethylethane-1,2-diamine in EXAMPLE 6A.

reactant | 4-chloro-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | O1CCC(CC1)CN | C6H13NO
reactant | 4-methylpiperazin-1-amine dihydrochloride | Cl.Cl.CN1CCN(CC1)N
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | CN(CCN(C)C)C | C6H16N2
product | 3-chloro-4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide | ClC=1C=C(C=CC1NCC1CCOCC1)S(=O)(=O)N | C12H17ClN2O3S
